US09284308B2
tert-Butyl-3-(4-chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinoline-6-carbonyl)azetidine-1-carboxylate
To a flask containing tert-butyl-3-((4-chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(hydroxy)methyl)azetidine-1-carboxylate (525 mg, 0.98 mmol, Intermediate 61: step a) was added 1,4-dioxane (40 mL) to give a homogeneous solution at room temperature. Manganese dioxide (715 mg, 8.23 mmol) was then added and the mixture was heated to 85° C. in an aluminum heating mantle under nitrogen. After 60 minutes, the contents were filtered through a Celite® pad while the solution was still warm, rinsing with THF. The effluent was concentrated and purified by passing through a short column of silica gel (10% acetone-hexane increasing to 25% acetone) to provide the title compound as a white amorphous solid.

reactant | tert-butyl-3-((4-chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(hydroxy)methyl)azetidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CC(C1)C(O)C=1C=C2C(=C(C(=NC2=CC1)OC)CC1=CC=C(C=C1)C(F)(F)F)Cl | C27H28ClF3N2O4
reactant | aluminum | [Al] | Al
catalyst | Manganese dioxide | 8.23 mmol, 715 mg | [O-2].[O-2].[Mn+4]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl-3-(4-chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinoline-6-carbonyl)azetidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)C=1C=C2C(=C(C(=NC2=CC1)OC)CC1=CC=C(C=C1)C(F)(F)F)Cl | C27H26ClF3N2O4
